US06762180B1
(2) 3-Z-[1-(4-(4-benzoyl-piperazin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 3-Z-[1-(4-(piperazin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone and benzoyl chloride Rf value: 0.7 (silica gel, methylene chloride/methanol=10:1) C35H32N4O4

reactant | 3-Z-[1-(4-(piperazin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | N1(CCNCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C28H28N4O3
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 3-Z-[1-(4-(4-benzoyl-piperazin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | C(C1=CC=CC=C1)(=O)N1CCN(CC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C35H32N4O4
